US07351719B2
156) N-[3-bromo-4-(2-diethylamino-ethoxy)-phenyl]-2-(2-chloro-4-trifluoromethyl -phenoxy)-acetamide
Prepared analogously to Example 143 starting from (2-chloro-4-trifluoromethyl-phenoxy)-acetic acid (Z2b) and 3-bromo-4-(2-diethylamino-ethoxy)-phenylamine (Z30b).

reactant | (2-chloro-4-trifluoromethyl-phenoxy)-acetic acid | ClC1=C(OCC(=O)O)C=CC(=C1)C(F)(F)F | C9H6ClF3O3
reactant | 3-bromo-4-(2-diethylamino-ethoxy)-phenylamine | BrC=1C=C(C=CC1OCCN(CC)CC)N | C12H19BrN2O
product | N-[3-bromo-4-(2-diethylamino-ethoxy)-phenyl]-2-(2-chloro-4-trifluoromethyl -phenoxy)-acetamide | BrC=1C=C(C=CC1OCCN(CC)CC)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C21H23BrClF3N2O3
